US07863283B2
6-Bromo-N-isopropyl-7-{[5-(methylsulphinyl)pyridin-3-yl]methoxy}quinazolin-4-amine
6-Bromo-N-isopropyl-7-{[5-(methylsulphanyl)pyridin-3-yl]methoxy}quinazolin-4-amine (430 mg, 1.03 mmol) is presented as an initial charge in 20 mL of chloroform and at 0° C. and at 0° C. admixed with meta-chloroperbenzoic acid (260 mg, 1.13 mmol). The batch is subsequently stirred at 0° C. for 45 minutes. The batch is introduced into 2N aqueous sodium hydroxide solution. The mixture is extracted with dichloro-methane, the organic phase is dried over sodium sulphate and the solvent is concentrated. Chromatography (silica gel, dichloromethane/methanol: 0→30% methanol) gives the desired product in 74% yield (330 mg).

reactant | 6-Bromo-N-isopropyl-7-{[5-(methylsulphanyl)pyridin-3-yl]methoxy}quinazolin-4-amine | 1.03 mmol, 430 mg | BrC=1C=C2C(=NC=NC2=CC1OCC=1C=NC=C(C1)SC)NC(C)C | C18H19BrN4OS
reactant | meta-chloroperbenzoic acid | 1.13 mmol, 260 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Bromo-N-isopropyl-7-{[5-(methylsulphinyl)pyridin-3-yl]methoxy}quinazolin-4-amine | 74% yield | BrC=1C=C2C(=NC=NC2=CC1OCC=1C=NC=C(C1)S(=O)C)NC(C)C | C18H19BrN4O2S
